US04374829
Ethyl 2-oxo-4-phenylbutyrate (1.03 g) and L-alanyl-L-proline (0.19 g) are dissolved in a 1:1 ethanol-water solvent. A solution of sodium cyanoborohydride (0.19 g) in ethanol-water is added dropwise at room temperature over the course of two hours. When reaction is complete, the product is absorbed on strong acid ion-exchange resin and eluted with 2% pyridine in water. The product-rich cuts are freeze dried to give 0.25 g of crude N-(1-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-L-proline. The mass spectrum shows a molecular ion at 448 m/e for the monosilylated species. Chromatography affords the desired isomer.

reactant | Ethyl 2-oxo-4-phenylbutyrate | 1.03 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | L-alanyl-L-proline | 0.19 g | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | sodium cyanoborohydride | 0.19 g | C(#N)[BH3-].[Na+]
solvent | ethanol water | C(C)O.O
product | N-(1-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-L-proline | 0.25 g | C(C)OC(=O)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C20H28N2O5
